US06624159B2
2-Benzyl-N-(4-chlorobenzyl)-10-(4-morpholinylmethyl)-3,8-dioxo-1,2,3,4-tetrahydro-8H-[1,4]diazepino[6,7,1-ij]quinoline-7-carboxamide [BN.1]
Bromoacetic anhydride (40 mg) is added to a stirred solution of 8-((benzylamino)methyl)-N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (Preparation 29, 53 mg) in NMP (0.3 mL). After 30 min, triethylamine (50 mg) is added. The solution is diluted with water and the resulting precipitate is filtered and dried under vacuum to give 44 mg of the title compound. Physical characteristics: HRMS m/z 571.2104 (C32H31ClN4O4).

reactant | Bromoacetic anhydride | 40 mg | BrCC(=O)OC(CBr)=O | C4H4Br2O3
reactant | 8-((benzylamino)methyl)-N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 53 mg | C(C1=CC=CC=C1)NCC=1C=C(C=C2C(=C(C=NC12)C(=O)NCC1=CC=C(C=C1)Cl)O)CN1CCOCC1 | C30H31ClN4O3
reactant | triethylamine | 50 mg | C(C)N(CC)CC | C6H15N
solvent | NMP | 0.3 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 2-Benzyl-N-(4-chlorobenzyl)-10-(4-morpholinylmethyl)-3,8-dioxo-1,2,3,4-tetrahydro-8H-[1,4]diazepino[6,7,1-ij]quinoline-7-carboxamide | 44 mg | C(C1=CC=CC=C1)N1C(CN2C=C(C(C3=CC(=CC(=C23)C1)CN1CCOCC1)=O)C(=O)NCC1=CC=C(C=C1)Cl)=O | C32H31ClN4O4
